US06355702B1
Synthesis of 2,6-Dimethyl-2,6-Heptanediol Diacrylate
Synthesis was carried out as in Example I except that 16 g (0.05 mol) of 2,6-dimethyl-2,6-heptanediol prepared as in Background Example 5 was substituted for the 2,7-dimethyl-2,7-octane diol.

reactant | 2,6-dimethyl-2,6-heptanediol | 0.05 mol, 16 g | CC(C)(CCCC(C)(O)C)O | C9H20O2
reactant | 2,7-dimethyl-2,7-octane diol | CC(C)(CCCCC(C)(O)C)O | C10H22O2
product | 2,6-Dimethyl-2,6-Heptanediol Diacrylate | C(C=C)(=O)OC(C)(CCCC(C)(OC(C=C)=O)C)C | C15H24O4
